US07763608B2
4-chloro-1-methyl-N-((1-(4-(2-oxopyridin-1(2H)-yl)phenyl)-1H-imidazol-4-yl)methyl)-1H-pyrrole-2-carboxamide (37)
A mixture of N-((1H-imidazol-4-yl)methyl)-4-chloro-1-methyl-1H-pyrrole-2-carboxamide (81 mg, 0.23 mmol), 1-(4-iodophenyl)pyridin-2(1H)-one (100 mg, 0.33 mmol), 8-hydroxyquinoline (15 mg, 0.10 mmol) and K2CO3 (193 mg, 1.40 mmol) in DMSO (2 mL) was degassed with Ar before being charged with CuI (21 mg, 0.11 mmol). The mixture in a sealed tube was heated at 130° C. overnight. It was then purified by HPLC to give the titled compound (25 mg). MS 408.1 and 410.1 (M+H, Cl pattern).

reactant | N-((1H-imidazol-4-yl)methyl)-4-chloro-1-methyl-1H-pyrrole-2-carboxamide | 0.23 mmol, 81 mg | N1C=NC(=C1)CNC(=O)C=1N(C=C(C1)Cl)C | C10H11ClN4O
reactant | 1-(4-iodophenyl)pyridin-2(1H)-one | 0.33 mmol, 100 mg | IC1=CC=C(C=C1)N1C(C=CC=C1)=O | C11H8INO
reactant | 8-hydroxyquinoline | 0.10 mmol, 15 mg | OC=1C=CC=C2C=CC=NC12 | C9H7NO
reactant | K2CO3 | 1.40 mmol, 193 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
catalyst | CuI | 0.11 mmol, 21 mg | [Cu]I
product | 4-chloro-1-methyl-N-((1-(4-(2-oxopyridin-1(2H)-yl)phenyl)-1H-imidazol-4-yl)methyl)-1H-pyrrole-2-carboxamide | 25 mg | ClC=1C=C(N(C1)C)C(=O)NCC=1N=CN(C1)C1=CC=C(C=C1)N1C(C=CC=C1)=O | C21H18ClN5O2
